US05998436
Synthesis of 6-t-butylamino-2-chloro-3-cyano-5-fluoropyridine
To a solution of 7.6 g of 2,6-dichloro-3-cyano-5-fluoropyridine in 40 ml acetonitrile was added 8.8 g of t-butylamine, and the mixture was stirred overnight at room temperature. The solvent was distilled off the reaction solution. The residue was separated by adding methylene chloride and water. The organic layer was dried over magnesium sulfate, and the solvent was distilled off to obtain 6 g of the title compound as a pale yellow powder.

reactant | 2,6-dichloro-3-cyano-5-fluoropyridine | 7.6 g | ClC1=NC(=C(C=C1C#N)F)Cl | C6HCl2FN2
reactant | t-butylamine | 8.8 g | C(C)(C)(C)N | C4H11N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 6-t-butylamino-2-chloro-3-cyano-5-fluoropyridine | 6 g | C(C)(C)(C)NC1=C(C=C(C(=N1)Cl)C#N)F | C10H11ClFN3
